US05110955
A solution of (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate (0.98 g) in acetonitrile (15 ml) was treated dropwise at -20° C. with a solution of ceric ammonium nitrate (4.1 g) in water (15 ml). After 15 minutes the mixture was warmed to -10° C and left at this temperature for 1 hour. The mixture was diluted with ice-water and extracted twice with methylene chloride. The extracts were washed with water, dried and chromatographed on silica gel with hexane/ethyl acetate 95:5, yielding 0.67 g of (Z)-3-methyl-5-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadienyl)-2-pentenyl acetate as a pale yellow oil.

reactant | (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate | 0.98 g | C(C)(=O)OC\C=C(/CCC1=C(C(=C(C(=C1C)OC)C)C)OC)\C | C19H28O4
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 15 ml | O | H2O
product | (Z)-3-methyl-5-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadienyl)-2-pentenyl acetate | 0.67 g | C(C)(=O)OC\C=C(/CCC1=C(C(C(=C(C1=O)C)C)=O)C)\C | C17H22O4
